US06958391B2
Production of N6-bezoyl-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyadenosine
N6-benzoyl-5′-O-(tert-butyldimethylsilyl)-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyadenosine (16.2 g) was dissolved in 200 ml of dry THF. A THF solution (31 ml) of tetrabutylammonium fluoride was added to the resultant solution and 100 ml of dry THF was further added, followed by stirring at room temperature. After 8 hours, THF was distilled off and extraction using chloroform was carried out. The extract was then washed by a saturated solution of sodium chloride and dried with anhydrous magnesium sulfate. The extract was then concentrated and purified by column chromatography (ethyl acetate/hexane/methanol) to obtain 13.8 g of the titled compound as a white powder (yield: 98%).

reactant | N6-benzoyl-5′-O-(tert-butyldimethylsilyl)-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyadenosine | 16.2 g | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](OC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)[C@@H](CO[Si](C)(C)C(C)(C)C)O3)C2N=CN1 | C44H49N5O6Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 31 ml | C1CCOC1 | C4H8O
product | N6-bezoyl-3′-O-(4,4′-dimethoxytrityl)-2′-deoxyadenosine | 13.8 g, yield: 98% | C(C1=CC=CC=C1)(=O)NC=1C=2N=CN([C@H]3C[C@H](OC(C4=CC=C(C=C4)OC)(C4=CC=C(C=C4)OC)C4=CC=CC=C4)[C@@H](CO)O3)C2N=CN1 | C38H35N5O6
